US05831014
N-(Trimethylsilylethoxycarbonyl)-1,2-diaminoethane hydrochloride
N-(t-Butyloxycarbonyl)-1,2-diaminoethane (8.0 g, 50 mmol) is dissolved in THF (200 mL), diisopropylethylamine (6.5 g, 50 mmol) is added and the solution cooled to 0° C. To this cold solution is added dropwise trimethylsilylethoxycarbonylchloride (9.0 g, 50 mmol) over 10 minutes. After stirring an additional 30 minutes the reaction is filtered and the filtrate is evaporated to an oil. This oil is dissolved in 100 mL of diethyl ether and washed with dilute HCl solution (3×25 mL), dried, filtered and evaporated to give an oil. The oil is dissolved in 100 mL of dichloromethane and dry HCl gas is bubbled through the solution for 30 minutes and the reaction stirred for 1 hour. The reaction is diluted with 200 mL of cold diethyl ether and allowed to stand at -5° C. for 12 hours. The colorless solid formed is collected and stored protected from moisture.

reactant | N-(t-Butyloxycarbonyl)-1,2-diaminoethane | 50 mmol, 8.0 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | diisopropylethylamine | 50 mmol, 6.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilylethoxycarbonylchloride | 50 mmol, 9.0 g | C[Si](C)(C)CCOC(=O)Cl | C6H13ClO2Si
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(Trimethylsilylethoxycarbonyl)-1,2-diaminoethane hydrochloride | Cl.C[Si](C)(C)CCOC(=O)NCCN | InChI=1S/C8H20N2O2Si.ClH/c1-13(2,3)7-6-12-8(11)10-5-4-9;/h4-7,9H2,1-3H3,(H,10,11);1H
